US07723330B2
Step B: Preparation of tert-butyl 5-(4-(2-fluoro-4-(2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamido)phenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate:
A round-bottomed flask was charged with tert-butyl 5-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (44.8 mg, 0.0780 mmol), 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (54.8 mg, 0.234 mmol), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (74.7 mg, 0.390 mmol), 1H-benzo[d][1,2,3]triazol-1-ol (52.7 mg, 0.390 mmol), N-ethyl-N-isopropylpropan-2-amine (101 mg, 0.780 mmol) and DMF (10 mL). The reaction mixture was stirred at ambient temperature overnight. The reaction was partitioned between EtOAc and H2O. The phases were separated and the aqueous phase was re-extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated. The crude material was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to afford product (42.5 mg, 68.9%). LRMS (APCI pos): m/e 691 (M−99).

reactant | tert-butyl 5-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.0780 mmol, 44.8 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)N3CC2C(C3)CN(C2)C(=O)OC(C)(C)C)C=C1 | C31H35FN6O4
reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | 0.234 mmol, 54.8 mg | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.390 mmol, 74.7 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 0.390 mmol, 52.7 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.780 mmol, 101 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(4-(2-fluoro-4-(2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamido)phenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 42.5 mg, 68.9% | FC1=C(OC2=C3C(=NC=C2)N(N=C3N3CC2C(C3)CN(C2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC)C=CC(=C1)NC(=O)C=1C(N(N=CC1)C1=CC=C(C=C1)F)=O | C42H40F2N8O6
